US06770778B2
To a solution of the product of Preparation 1, Step A, 1,2:5,6-di-O-isopropylidene-D-mannitol (50 g, 0.191 mol), in water (700 mL), was added solid sodium bicarbonate (20 g). The resultant solution was stirred until all the solid dissolved, and then cooled in an ice-water bath. Solid sodium periodate (81.5 g, 0.381 mol) was slowly added to the solution portionwise. Gas evolution observed. The white mixture was stirred at ambient temperature for 2 hours. Solid sodium chloride (30 g) was added, and the mixture was stirred for 15 minutes. The white solid was filtered. The filtrate was cooled in an ice-water bath. Solid sodium borohydride was added slowly. Gas bubble evolved. The mixture was warmed to ambient temperature, and stirred overnight. The milky mixture turned to a clear solution. The aqueous solution was extracted with dichloromethane (3×). The organic solution was washed with brine, and dried over magnesium sulfate. The solvent was removed in vacuo to give (S)-(+)-(2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol as a colorless oil, which was dried under high vacuum at ambient temperature overnight, 34.82 g (60%); MS (APCI+)=133 (M++1).

reactant | 1,2:5,6-di-O-isopropylidene-D-mannitol | 0.191 mol, 50 g | CC1(OC[C@@H](O1)[C@H]([C@@H]([C@H]2COC(O2)(C)C)O)O)C | C12H22O6
reactant | sodium bicarbonate | 20 g | C([O-])(O)=O.[Na+]
reactant | sodium periodate | 0.381 mol, 81.5 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium chloride | 30 g | [Cl-].[Na+]
solvent | water | 700 mL | O | H2O
product | (S)-(+)-(2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol | CC1(OC[C@@H](O1)CO)C | C6H12O3
